US05151447
To 400 ml of ethyl acetate at 0° C. was added, during a one hour period, 155.2 g (0.4 mol) of N,N'-bis-phenyl-3,3'-dithiodiisobutyramide in 40 equal portions and 116.5 g (1.64 mol) of chlorine. The temperature was maintained at 0°-5° C. during the additions. The mixture was then allowed to warm to 15° C. The solution was then evaporated under reduced pressure, leaving a brown oil which partially solidified on standing. This material was dissolved in warm ethanol. On cooling, pink solid separated which was removed by filtration. The filtrate was evaporated to a dark oil. The oil was extracted with ether. Evaporation of the ether gave 112.7 g of a yellow mush. Three grams of this mush was chromatographed on a silica dry column developed with toluene. The main fraction (1.92 g), with a R value of approximately 0.7, was extracted from the silica with ether which was then evaporated. On standing, the residual oil solidified. This material was recrystallized from ethanol to give the cream-colored 2-phenyl-4-methyl-5-chloro-4-isothiazolin-3-one intermediate whose m.p.=60°-68° C.

reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
reactant | N,N'-bis-phenyl-3,3'-dithiodiisobutyramide | 0.4 mol, 155.2 g | C1(=CC=CC=C1)NC(C(CSSCC(C(=O)NC1=CC=CC=C1)C)C)=O | C20H24N2O2S2
reactant | chlorine | 1.64 mol, 116.5 g | ClCl | Cl2
solvent | ethanol | C(C)O | C2H6O
product | 2-phenyl-4-methyl-5-chloro-4-isothiazolin-3-one | C1(=CC=CC=C1)N1SC(=C(C1=O)C)Cl | C10H8ClNOS
